US08791107B2
PREPARATION x54: 4-(5-bromo-2-chloropyrimidin-4-yl)-N-(tetrahydro-2H-pyran-4-yl)morpholine-3-carboxamide
To a 200 mL round-bottom flask were added 4-(5-bromo-2-chloropyrimidin-4-yl)morpholine-3-carboxylic acid (PREPARATION x30, 2.5 g, 7.75 mmol) and 1-hydroxybenzotriazole (1.257 g, 9.30 mmol) in tetrahydrofuran (30 mL) to give a beige suspension. To this suspension were added 1-ethyl-(3-dimethylaminopropyl)carbodiimide hydrochloride (1.783 g, 9.30 mmol) and tetrahydro-2H-pyran-4-amine (0.802 mL, 7.75 mmol). After 1 hour at 0° C., HPLC showed the reaction was almost complete. The reaction mixture was subsequently partitioned between brine and ethyl acetate. The aqueous layer was extracted with ethyl acetate and the combined organic layers were dried over MgSO4, filtered, and concentrated. The residue was purified by normal phase column chromatography (˜50 g silica, 35-100% EtOAc gradient in hexanes) to give the title compound as a white foam (1.8 g, 57.2%).

reactant | 4-(5-bromo-2-chloropyrimidin-4-yl)morpholine-3-carboxylic acid | 7.75 mmol, 2.5 g | BrC=1C(=NC(=NC1)Cl)N1C(COCC1)C(=O)O | C9H9BrClN3O3
reactant | 1-hydroxybenzotriazole | 9.30 mmol, 1.257 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-(3-dimethylaminopropyl)carbodiimide hydrochloride | 9.30 mmol, 1.783 g | Cl.C(C)N=C=NCCCN(C)C
reactant | tetrahydro-2H-pyran-4-amine | 7.75 mmol, 0.802 mL | O1CCC(CC1)N | C5H11NO
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 4-(5-bromo-2-chloropyrimidin-4-yl)-N-(tetrahydro-2H-pyran-4-yl)morpholine-3-carboxamide | 1.8 g, 57.2% | BrC=1C(=NC(=NC1)Cl)N1C(COCC1)C(=O)NC1CCOCC1 | C14H18BrClN4O3
